* Op-Amp Buffer Noise (subcircuit instance)
* Noise referred to the input of a unity-gain buffer implemented as
* an X-subcircuit. The subcircuit is a simple VCVS so the measured
* output noise comes from the source resistor while the ideal VCVS adds
* none of its own, giving a clean check of .noise + .subckt integration.
* Devices exercised: V, R, X (subcircuit instance), E (VCVS inside subckt).

.title Op-Amp Buffer Noise

* --- AC test source ---
Vin in 0 AC 1

* --- Source-resistance seen by the buffer input ---
Rsrc in buf_in 1k

* --- Ideal unity-gain buffer subcircuit ---
.subckt IDEAL_OPAMP_BUFFER bin bout
Ebuf bout 0 bin 0 1.0
.ends IDEAL_OPAMP_BUFFER

Xbuf buf_in out IDEAL_OPAMP_BUFFER

* --- Output load ---
Rload out 0 10k

* --- Noise analysis ---
* ngspice's .meas directive does not accept a NOISE analysis type, so
* the total integrated noise must be inspected directly from the
* onoise / inoise frequency-sweep output on the chart / raw-data tab
* rather than through a .measure card.
.noise V(out) Vin dec 20 1 10Meg

.end
